US06417186B1
6a. 2,2,2-Trifluoro-N-{4-[3-(4-fluorophenyl)-3-oxopropyl]phenyl}-acetamide
A mixture of 3-(4-aminophenyl)-1-(4-fluorophenyl)propan-1-one (3.34 g, 13.74 mmol) (prepared as described in Example lb), and triethylamine (4.95 g, 48.96 mmol) in dichloromethane (70 mL) was cooled in an ice bath under nitrogen. The mixture was treated with a dropwise addition of trifluoroacetic anhydride (5.14 g, 24.48 mmol). After stirring in an ice bath for 30 minutes, the mixture was quenched with methanol (30 mL) and phosphate buffer at pH 7 (30 mL), and extracted with dichloromethane. The organic layer was washed with water and brine, dried, and evaporated in vacuo. Purification by silica gel chromatography, eluting with 20% ethyl acetate/hexane, gave the title compound as a solid (0.45 g, 85%), M/S M 339. The product was used in the next step without further purification.

reactant | 3-(4-aminophenyl)-1-(4-fluorophenyl)propan-1-one | 13.74 mmol, 3.34 g | NC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)F | C15H14FNO
reactant | triethylamine | 48.96 mmol, 4.95 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 24.48 mmol, 5.14 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 2,2,2-Trifluoro-N-{4-[3-(4-fluorophenyl)-3-oxopropyl]phenyl}-acetamide | 0.45 g, 85% | FC(C(=O)NC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)F)(F)F | C17H13F4NO2
